US05922916
To a 500 mL, 5-necked flask, equipped with a circulating jacket, a thermometer, a nitrogen blanket line atop a condenser, an addition funnel, a syringe pump, and a mechanical stirrer, were charged 101.1 g of acetoacetamide (1.00 mol), 100 mL of deionized water and 100 g of methanol. The mixture was stirred at ambient temperature until all solids were dissolved. A 45% aqueous potassium hydroxide solution (99.6 g, 0.80 mol) was then added to the above solution through the addition funnel over a period of 5 minutes. The resulting mixture was stirred for 30 minutes and then cooled to 15° C. Ethyl bromide (130.8 g, 1.20 mol) was added to the mixture through the syringe pump over a period of 30 minutes. The resulting mixture was stirred at 15° C. for 16 hours. All volatiles were then removed at 60° C./20 mmHg. The solid residue was dissolved in 300 mL of water and extracted with chloroform. A total of six chloroform extractions were performed (60 mL+5×200 mL). The first extraction contained a high level of 2,2-diethylacetoacetamide and was discarded. The remaining extraction solutions were combined. After chloroform was removed in vacuo, 67.7 g of 2-ethylacetoacetamide was obtained. Crude yield: 66% (based on KOH charge).

reactant | acetoacetamide | 1.00 mol, 101.1 g | C(CC(=O)C)(=O)N | C4H7NO2
reactant | water | 100 mL | O | H2O
reactant | potassium hydroxide | 0.80 mol, 99.6 g | [OH-].[K+]
reactant | Ethyl bromide | 1.20 mol, 130.8 g | C(C)Br | C2H5Br
solvent | methanol | 100 g | CO | CH4O
product | 2-ethylacetoacetamide | 67.7 g | C(C)C(C(=O)N)C(=O)C | C6H11NO2
